US05276154
A THF (2.0 ml) solution of triethyl phosphonoacetate (EtO)2P(O)CH2COOEt (0.224 g, 0.198 ml, 1.00 mmol) was added at 0° C. under argon atmosphere to sodium hydride (content 60%, oil dispersion, 42 mg, 1.04 mmol) which had been washed with hexane, and the mixture was stirred for 30 minutes. To the mixture was added a THF (1 ml) solution of 3-methyl-2-bis(4-fluorophenyl)methylidenbutanal (0.286 g, 1.0 mmol) prepared according to the method described in Tetrahedron Lett., 29, 929 (1988). After stirring at room temperature overnight, the mixture was then diluted with water (25 ml) and extracted with hexane (30 ml×3 times). The organic layer was washed with water (30 ml×twice) and saturated sodium chloride aq solution and finally dried over anhydrous magnesium sulfate. Concentration in vacuo followed by purification by thin layer chromatography (silica gel, ethyl acetate:hexane=1:9) to give 0.28 g (79% yield) of ethyl (E)-5-methyl-4-bis(4-fluorophenyl)methylidene-2-hexenoate.

reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | 1.04 mmol, 42 mg | [H-].[Na+]
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | 3-methyl-2-bis(4-fluorophenyl)methylidenbutanal | 1.0 mmol, 0.286 g | CC(C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C | C18H16F2O
reactant | water | 25 ml | O | H2O
product | ethyl (E)-5-methyl-4-bis(4-fluorophenyl)methylidene-2-hexenoate | 0.28 g, 79% yield | CC(C(/C=C/C(=O)OCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C | C22H22F2O2
